US08067408B2
NaBH4 (3.57 g, 94.3 mmol) was cautiously added to a solution of NiCl2 (1.83 g, 14.1 mmol), Boc2O (6.03 g, 27.6 mmol) and 3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylcarbonitrile (4.60 g, 13.5 mmol) in absolute ethanol (70 mL) at 0° C. (vigorous reaction with the formation of a black precipitate). Once the reaction had subsided the mixture was left to stir, at room temperature, for 30 min. Ethanol was removed under reduced pressure and the precipitate dissolved in EtOAc and NaHCO3, filtered and repeatedly washed with EtOAc. The combined organic phases were dried (Na2SO4). The product was purified by flash column chromatography to yield 1,1-dimethylethyl {[3′-({[(1,1-dimethylethyl)-(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylyl]methyl}carbamate (1.90 g, 32%). 1H NMR (400 MHz, CDCl3): δ 7.51-7.16 (m, 6 H), 6.97 (d, J=5.2 Hz, 1 H), 4.91 (s, 1 H), 4.80 (s, 2 H), 4.38-4.37 (m, 2 H), 1.53 (s, 9 H), 0.96 (s, 9 H), 0.12 (s, 6 H); 13C NMR (400 MHz, CDCl3): δ 156.0, 143.9, 142.3, 139.8, 129.0, 125.8, 124.9, 121.8, 113.1, 79.9, 65.0, 44.4, 28.5, 26.1, 18.6, −5.1; HPLC: retention time: 4.709 min; purity: 97.9% (HPLC).

reactant | NaBH4 | 94.3 mmol, 3.57 g | [BH4-].[Na+]
reactant | Boc2O | 27.6 mmol, 6.03 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylcarbonitrile | 13.5 mmol, 4.60 g | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=CC(=CC(=C1)F)C#N)(C)C | C20H24FNOSi
solvent | ethanol | 70 mL | C(C)O | C2H6O
catalyst | NiCl2 | 14.1 mmol, 1.83 g | Cl[Ni]Cl
product | 1,1-dimethylethyl {[3′-({[(1,1-dimethylethyl)-(dimethyl)silyl]oxy}methyl)-5-fluoro-3-biphenylyl]methyl}carbamate | 1.90 g, 32% | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=CC(=CC(=C1)F)CNC(OC(C)(C)C)=O)(C)C | C25H36FNO3Si
